
* Write in component attribute editor in SpiceLine field:
*  wiper=[value]
*  where [value] is a number between 0 and 1

.SUBCKT pot_lin 1 2 3
.param w=limit(0.01m,wiper,0.99999)
*
R1 1 3 {Rtot*(1-w)}
R2 3 2 {Rtot*(w)}
.ENDS
